US07005538B1
3,5-Dibromo-4-(3-bromobenzyloxy)benzoic acid (0.15 mmol) was coupled with methanesulphonamide (0.77 mmol) using the procedure described in Example 31. Purification on column (silica gel, chloroform/methanol 9:1) gave 55 mg (67%) of N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]methanesulphonamide.

reactant | 3,5-Dibromo-4-(3-bromobenzyloxy)benzoic acid | 0.15 mmol | BrC=1C=C(C(=O)O)C=C(C1OCC1=CC(=CC=C1)Br)Br | C14H9Br3O3
reactant | methanesulphonamide | 0.77 mmol | CS(=O)(=O)N | CH5NO2S
product | N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]methanesulphonamide | 55 mg, 67% | BrC=1C=C(C(=O)NS(=O)(=O)C)C=C(C1OCC1=CC(=CC=C1)Br)Br | C15H12Br3NO4S
